US03966956
Another method of preparing the compound I according to the invention is the acylation of (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate and subsequently splitting off the benzyl group. The mixed anhydride of p-chlorobenzoic acid with a monoalkyl ester of carbon dioxide is preferably used as acylation agent for this purpose. The reaction takes place by simply mixing the reactants and slowly heating them to 200°C until the evolution of carbon dioxide, starting at about 80°C, has ended. It is advantageous to use an excess of anhydride, preferably in the ratio of 1:2 to 1:3. The reaction takes place in the presence of a catalytic quantity of an organic base. As the organic base it is possible, inter alia, to use quinoline and pyridine and, more particularly triethylamine. The subsequent hydrogenation of the [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate which is formed takes place as described under A.

reactant | (5-methoxy-2-methyl-3-indoleacetoxy)-benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C21H21NO5
reactant | p-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxy]-benzyl acetate | C(C)(=O)OC(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C28H24ClNO6
